### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal): partially setting simp lemmas

### PR DESCRIPTION
**Pull request by yuma-mizuno**
Extracted from #6307. The main reason why #6307 is so large is that many tensoring of identity morphisms that appear in mathlib should be replaced with whiskerings. This PR will leave this issue and deal with other parts. That is, we do not set `id_tensorHom` and `tensorHom_id` as simple lemmas at this moment, We can set them as simp lemmas locally to enable simple normal forms.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 1]
```diff
@@ -557,8 +739,111 @@ abbrev ofTensorHom [MonoidalCategoryStruct C]
...
+    (𝟙 X ⊗ (λ_ Y).inv) ≫ (α_ X (𝟙_ C) Y).inv = (ρ_ X).inv ⊗ 𝟙 Y := by
+  simp
+#align category_theory.monoidal_category.triangle_assoc_comp_left_inv CategoryTheory.MonoidalCategory.triangle_assoc_comp_left_inv
+
+theorem rightUnitor_conjugation {X Y : C} (f : X ⟶ Y) :
+    f ⊗ 𝟙 (𝟙_ C) = (ρ_ X).hom ≫ f ≫ (ρ_ Y).inv := by
+  simp
+#align category_theory.monoidal_category.right_unitor_conjugation CategoryTheory.MonoidalCategory.rightUnitor_conjugation
+
+theorem leftUnitor_conjugation {X Y : C} (f : X ⟶ Y) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:819]: These two lemmas could have the `reassoc` attribute. Otherwise, the PR looks great to me!

**Comment by joelriou** [comment]
Thanks!

bors merge
